data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3185,"CCC(C)(OP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O:1][H:2])C(=O)C1CCCC2=C(C=CC=C2)C1=O.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2694,"CC(C)(O)[O:1]C1=CC=CC=C1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8058,"C1CC[C:1]([N:2]2CCOCC2)([OH2+:3])C1.CC1=CC=C(S(=O)(=O)[O-])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7553,"CO[C+:1]1C2=CC=CC=C2[C:2](C(C)C)([H:3])[CH:4]=[CH:5]1.[F-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,5423,"CC1=C[CH:1]=[C:2](C)O1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,3950,"C1[CH2:1][O:2]1.[CH2:3]=[CH:4][O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2001,"CO[C:1]1=[CH:2]C=C2C=CC=CC2=C1Br.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8374,"CC(=O)[O:1][H:2].CC1(C)C2=C(C=C(Br)C(N3CC[NH+](C4([O-:3])COC4)CC3)=C2)C(=O)C2=C1NC1=CC=CC=C12.CO.[BH3-]C#N|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2083,"CC(C)[N](C(C)C)[Li:1].CC1(C)CCC(=[O:2])C2OC21|(2, 1)"
train,pmechdb_split_0,0,6290,"C[C:1](C)([Br:2])[Br:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3398,"C=CC(=O)[O:1][C:2](C)(CC(C)=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5526,"O[C:1]1([O-:2])[CH:3]2CC=CC2[CH:4]1[Cl:5]|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6946,"C[C:1]1(C)[SH+:2]CC[S:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1550,"CC1C[C:1]([O:2][C:3](OC(=O)C(F)(F)F)(C(F)(F)F)[O-:4])=[NH+:5]C2(C)C3=CCC4CC(O)CCC4(C)C3CCC12C|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,3457,"CC(NO)[O-:1].O[NH2+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8301,"CCO[C:1](C(C)C)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,624,"C[N-:1][CH:2]=[S+:3]C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,457,"CO[PH+:1](Br)[O:2][CH3:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,5985,"C=CC(OC1=CC=CC=C1)=[O:1].O=S(=O)([N](S(=O)(=O)C(F)(F)F)[Al:2]([O]C1=C(C2=CC=CC=C2)C=CC=C1C1=CC=CC=C1)[O]C1=C(C2=CC=CC=C2)C=CC=C1C1=CC=CC=C1)C(F)(F)F|(1, 2)"
train,pmechdb_split_0,0,6442,"C1=CC2=C(C=C1)N([O-:1])N=N2.CN(C)C(O[C:2](C)=[O:3])=[N+](C)C.F[B-](F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,700,"CC(C)(C)[Si](C)(C)OC(COCC1=CC=CC=C1)CC1(CC(O)CC(CC2(CC(COCC3=CC=CC=C3)O[Si](C)(C)C(C)(C)C)SCCCS2)[O-:1])SCCCS1.CC(C)C.[H:2][OH:3].[Li+].[OH-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7540,"CC=[N+:1](O)[H:2].O[NH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2456,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.COC(C1=CC=CC=C1)[O:3]C.[N-]=[N+]=NCC1OC(OC2C(N=[N+]=[N-])CC(N=[N+]=[N-])C(OC3OC(CO)C(O)C(N=[N+]=[N-])C3O)C2O)C(O)C(O)C1O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2211,"C1CCC([S-:1])CC1.CCC1CC[CH:2]=[CH:3]C1=O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5426,"CC(CC=O)[O-:1].CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4361,"CC(=O)[O-:1].O.OC1(C2=CC=CC=C2)CC=C(C2=CC=CC=C2)[N+:2]1(CC1=CC=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8876,"CC#N.CCOCC.O=C1CC(O)[CH:1]([OH+:2][B-](F)(F)F)[N:3]1CC1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3131,"C[CH:1]1[NH2+:2]CCC[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10329,"CC(O[Si-](C)(C)(C)Cl)=[NH:1].[CH2:2]=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1985,"CC(O)CC(C1(SC2=CC=CC=C2)CCOCC1)[OH:1].CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,325,"C[O-:1].C[P+:2](C)(C)[O:3][CH3:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,1242,"CC(=O)CC1=C[N:1]=CN1.COC1C(OC(=O)C=CC=CC=CC=CC(=O)O)CCC2(C1CC1OC1C=C(C)C)[CH2:2][O:3]2|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3790,"CCOCC.C[N:1](C)[CH:2]=[O:3].Cl[P+:4](Cl)(Cl)Cl|(1, 2);((2, 3), 4)"
train,pmechdb_split_0,0,2315,"CC12CCC(O)CC1CCC1C2CCC2(C)C1CCC2(O)[O+:1](CCO)[H:2].CS(=O)(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2338,"C[Si](C)(C)C1(C2([O:1][H:2])CCCCC2)CC1.[H:3][K:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9530,"CO[C:1](O)=[NH+:2]C.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1505,"N#CCCC[CH2:1][Br:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,578,"C[C:1]1(C)C(C2=CC=CC=C2)[Br+:2]1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1638,"CC(C)(C)O.COCOC1CC2CC[C:1]34C2=C1CC[C:2]3([O-:3])CC[CH:4]4[O:5]S(C)(=O)=O|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9256,"CC(Br)[C:1](Br)=[OH+:2].C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8614,"C[C+:1](C)[S-:2]|(2, 1)"
train,pmechdb_split_0,0,6134,"CC(C)[NH+]([Li-][O:1][C:2]1=[CH:3]CC(C)(C)C2OC21)C(C)C.[CH3:4][I:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2333,"CCC(C)O[S:1](Cl)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2598,"C[Si-:1](C)(C)(O[PH](=O)CCCCC1=CC=CC=C1)[Cl:2].C[Si](C)(C)N[Si](C)(C)C.C[Si](C)(C)OC(=O)CCl.[Cl-]|((1, 2), 2)"
train,pmechdb_split_0,0,8651,"CC[OH:1].[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1416,"CO[PH:1](OC)(N1C=NN=N1)[OH+:2]C|((1, 2), 2)"
train,pmechdb_split_0,0,4581,"C1CCN(C2([O-:1])CCCCC2)CC1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
